data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1773,1964,[CH3:19][O:20][C:21](=[O:22])[CH:23]=[NH+:24][CH-:25][C:26]([CH3:27])=[O:28].[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([F:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:23]([C:21]([O:20][CH3:19])=[O:22])[NH:24][CH:25]2[C:26]([CH3:27])=[O:28],water,298.15,15.424302681576949,-49.19934120321386
3876,4435,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[C:18]([CH3:19])=[O:20],water,298.15,20.07537752274008,-29.72483527595976
3963,4536,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19]([CH3:20])=[O:21])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,15.3787573076218,-31.11220622032309
2917,3248,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[N-:7][O+:8]=[N:9][C:10]#[N:11]>>[CH2:1]1[CH2:2][N:7]([C:5]([NH:4][CH3:3])=[O:6])[O:8][N:9]1[C:10]#[N:11],water,298.15,11.537372583962371,-62.46877461982224
958,1041,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[CH:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:21]([C:22]#[N:23])[O:20][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,7.746841782566397,-53.35502133720724
2910,3235,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][CH:6]=[O+:7][N-:8][C:9]#[N:10]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:8]([C:9]#[N:10])[O:7][CH:6]1[CH3:5],water,298.15,10.278533884482515,-34.646890374920915
5082,5770,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:16]([CH3:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:15][C:14]2([C:12]([CH3:11])=[O:13])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,34.61041424704734,2.2314405137093285
1777,1968,[CH3:15][O:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([C:22]#[N:23])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:20][CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,7.583569373082361,-38.74015431231516
3717,4245,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[N-:11][N+:12]([CH3:13])=[C:14]([C:15]#[N:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:11]([C:9]([O:8][CH3:7])=[O:10])[N:12]([CH3:13])[C:14]1([C:15]#[N:16])[C:17]([CH3:18])=[O:19],water,298.15,20.300031495994645,-15.105116964348438
5023,5711,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[O+:14][C-:15]([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16](=[O:17])[O:18][CH3:19])([C:20](=[O:21])[O:22][CH3:23])[O:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:24](=[O:25])[O:26][CH3:27],water,298.15,11.86569243867069,-50.5435344088173
4263,4877,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[NH+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([CH3:13])[NH:14][C:15]2([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,26.080453310523108,-14.329355900891803
1674,1846,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][CH:21]=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:21]([CH3:20])[NH:22][C:23]2([CH3:24])[C:25]([CH3:26])=[O:27],water,298.15,14.56908948537383,-34.855376982608426
